US08048909B2
N,N-Dimethyl-1-{5-phenyl-1-(3-pyridinesulfonyl)-1H-pyrrol-3-yl}methanamine dihydrochloride
5-Phenyl-1-(3-pyridinesulfonyl)-1H-pyrrole-3-carbaldehyde (230 mg) was dissolved in dichloromethane (20 mL), triethylamine (0.52 mL), dimethylamine hydrochloride (302 mg), sodium triacetoxyborohydride (1.06 g) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed successively with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→1:1) to give a free base of the title compound. The obtained free base was dissolved in ethyl acetate (3 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (1 ml) and ethanol (2 mL) were added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethanol to give the title compound (yield 138 mg, 45%).

reactant | 5-Phenyl-1-(3-pyridinesulfonyl)-1H-pyrrole-3-carbaldehyde | 230 mg | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H12N2O3S
reactant | triethylamine | 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 302 mg | Cl.CNC
reactant | sodium triacetoxyborohydride | 1.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-Dimethyl-1-{5-phenyl-1-(3-pyridinesulfonyl)-1H-pyrrol-3-yl}methanamine dihydrochloride | Cl.Cl.CN(CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1)C | InChI=1S/C18H19N3O2S.2ClH/c1-20(2)13-15-11-18(16-7-4-3-5-8-16)21(14-15)24(22,23)17-9-6-10-19-12-17;;/h3-12,14H,13H2,1-2H3;2*1H
